US07868188B2
N-[5-(5-Benzenesulfonylamino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]-2-methoxyacetamide
Using an analogous method to that described in Example 51, N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide was reacted with 2-methoxyacetyl chloride. The reaction product was purified by preparative HPLC (Method A) to give the title product (retention time 7.0 minutes); 1H NMR Spectrum: (DMSOd6+D2O) 8.59 (1H, d); 8.14 (1H, d); 8.03 (2H, d); 7.83 (1H, t); 7.70 (2H, t); 4.01 (1H, d); 3.72 (1H, d); 3.18 (3H, s); 2.27 (3H, s); Mass Spectrum: M+H+ 453.

reactant | N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=CC=C1 | C15H13ClN4O2S2
reactant | 2-methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | N-[5-(5-Benzenesulfonylamino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]-2-methoxyacetamide | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(COC)=O)C | C18H17ClN4O4S2
